US04563306
(3S)-1-Oxo-7-nitro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (1 g) is suspended in acetic acid (50 g), and PtO2 (50 mg) is added thereto. The mixture is subjected to catalytic reduction. The catalyst is filtered off, and the filtrate is distilled to remove the solvent, whereby (3S)-1-oxo-7-amino-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (870 mg) is obtained as an oil.

reactant | (3S)-1-Oxo-7-nitro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 1 g | O=C1N[C@@H](CC2=CC=C(C=C12)[N+](=O)[O-])C(=O)O | C10H8N2O5
solvent | acetic acid | 50 g | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 50 mg | O=[Pt]=O
product | (3S)-1-oxo-7-amino-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 870 mg | O=C1N[C@@H](CC2=CC=C(C=C12)N)C(=O)O | C10H10N2O3
